US07915261B2
An aqueous 1 M sodium hydroxide solution (0.69 ml) was added to a THF (5 ml)/water (4 ml) solution of methyl 5-[({4-[2-(3-cyanophenyl)ethyl]-1-piperidyl}carbonyl)oxy]nicotinate (272 mg), followed by stirring overnight at room temperature. 1 M hydrochloric acid (0.69 ml) was added to the reaction liquid, and the crystal precipitated was collected by filtration. The crystal was washed with a hot methanol/water solution, and dried to obtain 5-[({4-[2-(3-cyanophenyl)ethyl]-1-piperidyl}carbonyl)oxy]nicotinic acid (240 mg).

reactant | sodium hydroxide | 1 M, 0.69 ml | [OH-].[Na+]
reactant | THF | 5 ml | C1CCOC1 | C4H8O
reactant | methyl 5-[({4-[2-(3-cyanophenyl)ethyl]-1-piperidyl}carbonyl)oxy]nicotinate | 272 mg | C(#N)C=1C=C(C=CC1)CCC1CCN(CC1)C(=O)OC=1C=NC=C(C(=O)OC)C1 | C22H23N3O4
reactant | hydrochloric acid | 1 M, 0.69 ml | Cl | ClH
solvent | water | 4 ml | O | H2O
product | 5-[({4-[2-(3-cyanophenyl)ethyl]-1-piperidyl}carbonyl)oxy]nicotinic acid | 240 mg | C(#N)C=1C=C(C=CC1)CCC1CCN(CC1)C(=O)OC=1C=NC=C(C(=O)O)C1 | C21H21N3O4
